US05612323
A. Phenylphosphinic acid, methyl ester
To a solution of phenylphosphinic acid (5.00 g, 35.2 mmol), anhydrous methanol (7.0 mL, 170 mmol) and 4-dimethylaminopyridine (425 mg, 3.48 mmol) in 50 mL of THF (distilled from ketyl) was added EDAC (8.05 g, 42 mmol) at room temperature. The reaction was stirred for 24 hours then partitioned between HCl solution (75 mL of 1M aq) and ethyl acetate (75 mL). The organic layer was separated, washed with HCl solution (75 mL of 1M aq), sodium bicarbonate solution (75 mL of 5% aq) then dried (sodium sulfate) and concentrated in vacuo to afford the crude title compound as a colorless liquid (1.24 g, 7.95 mmol, 23%).

reactant | phenylphosphinic acid | 35.2 mmol, 5.00 g | C1(=CC=CC=C1)P(O)=O | C6H7O2P
reactant | methanol | 170 mmol, 7.0 mL | CO | CH4O
reactant | EDAC | 42 mmol, 8.05 g | CCN=C=NCCCN(C)C | C8H17N3
catalyst | 4-dimethylaminopyridine | 3.48 mmol, 425 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | Phenylphosphinic acid, methyl ester | 7.95 mmol, 1.24 g, 23% | C1(=CC=CC=C1)P(OC)=O | C7H9O2P
